** sch_path: /foss/designs/TOP.sch
.subckt TOP VDD VSS electrode_p electrode_n CLK START VDET VREF VBIAS VTRIM INA_OUT
*.PININFO VDD:B VSS:B electrode_p:B electrode_n:B CLK:B START:B VDET:B VREF:B VBIAS:B VTRIM:B INA_OUT:B
x1 VDD VSS electrode_p electrode_n INA_OUT VTRIM REF VBIAS VBIAS Phi1 Phi1b Phi2 Phi2b CCIA_chopped
XBPF1 SINGLE_OUT VREF VBIAS VBIAS VDD VSS BPF gf180_ecg_bpf
x2 CLK Phi1 Phi1b Phi2 Phi2b VDD VSS gf180_nonoverlap_clkgen
x3 INA_OUT VTRIM VREF SINGLE_OUT VBIAS VDD VSS gf180_diff2se_gain R1=1Meg R2=2Meg
XDIFF1 BPF VREF VBIAS VDD VSS DIFF gf180_ecg_differentiator
XSQT1 DIFF DIFF VREF VREF VDD VSS INT gf180_ecg_squarer_transistor
XINT1 INT VREF VBIAS VBIAS VDD VSS gf180_ecg_integrator
XTH1 INT REF VBIAS VDD VSS VDET gf180_ecg_threshold
XBGR START REF VDD VSS gf180_banba_bgr
.ends

* expanding   symbol:  CCIA_chopped.sym # of pins=13
** sym_path: /foss/designs/CCIA_chopped.sym
** sch_path: /foss/designs/CCIA_chopped.sch
.subckt CCIA_chopped vdd vss electrode_p electrode_n vout_bb_p vout_bb_n vocm_set i_bias v_bias_cmfb Phi1 Phi1b Phi2 Phi2b
*.PININFO vdd:B vss:B electrode_p:B electrode_n:B vout_bb_p:B vout_bb_n:B vocm_set:B i_bias:B v_bias_cmfb:B Phi1:B Phi1b:B Phi2:B
*+ Phi2b:B
xCCIA vdd vss net1 net2 net3 net4 vocm_set i_bias v_bias_cmfb CCIA
xCH_In vdd vss net2 net1 electrode_p electrode_n Phi1 Phi2 Phi1b Phi2b Chopper
xCH_Out vdd vss vout_bb_n vout_bb_p net3 net4 Phi1 Phi2 Phi1b Phi2b Chopper
xCh_pf vdd vss net6 net5 vout_bb_p vout_bb_n Phi1 Phi2 Phi1b Phi2b Chopper
XCpf_p net1 net5 cap_mim_2f0fF c_width=5e-6 c_length=10e-6
XCpf_n net2 net6 cap_mim_2f0fF c_width=5e-6 c_length=10e-6
.ends


* expanding   symbol:  gf180_ecg_bpf.sym # of pins=7
** sym_path: /foss/designs/gf180_ecg_bpf.sym
** sch_path: /foss/designs/gf180_ecg_bpf.sch
.subckt gf180_ecg_bpf VIN VREF VBIAS_HP VBIAS_LP VDD VSS VOUT
*.PININFO VIN:I VREF:I VBIAS_HP:I VBIAS_LP:I VDD:B VSS:B VOUT:O
X1GM1 VDD VSS net1 VREF VBIAS_HP net1 gf180_9T_bpf_1
X2GM2 VDD VSS VOUT net1 VBIAS_LP VOUT gf180_9T_bpf_2
XC3 net1 VIN cap_mim_2f0fF c_width=50e-6 c_length=100e-6
XC1 VOUT VSS cap_mim_2f0fF c_width=50e-6 c_length=100e-6
.ends


* expanding   symbol:  gf180_nonoverlap_clkgen.sym # of pins=7
** sym_path: /foss/designs/gf180_nonoverlap_clkgen.sym
** sch_path: /foss/designs/gf180_nonoverlap_clkgen.sch
.subckt gf180_nonoverlap_clkgen CLK Phi1 Phi1b Phi2 Phi2b VDD VSS
*.PININFO CLK:I VDD:B VSS:B Phi1:O Phi1b:O Phi2:O Phi2b:O
XCLKB CLK CLKB VDD VSS gf180_clk_inv_1 L=0.28u WN=0.42u WP=0.84u
XD1A CLK D1N VDD VSS gf180_clk_inv_1 L=10u WN=0.42u WP=0.84u
XD1B D1N CLKD VDD VSS gf180_clk_inv_1 L=10u WN=0.42u WP=0.84u
XD2A CLKB D2N VDD VSS gf180_clk_inv_1 L=10u WN=0.42u WP=0.84u
XD2B D2N CLKBD VDD VSS gf180_clk_inv_1 L=10u WN=0.42u WP=0.84u
XNAND1 CLK CLKD P1N VDD VSS gf180_clk_nand2 L=0.28u WN=0.84u WP=0.84u
XNAND2 CLKB CLKBD P2N VDD VSS gf180_clk_nand2 L=0.28u WN=0.84u WP=0.84u
XBUF1 P1N Phi1 VDD VSS gf180_clk_inv_2 L=0.28u WN=0.84u WP=1.68u
XCOMP1 Phi1 Phi1b VDD VSS gf180_clk_inv_2 L=0.28u WN=0.84u WP=1.68u
XBUF2 P2N Phi2 VDD VSS gf180_clk_inv_2 L=0.28u WN=0.84u WP=1.68u
XCOMP2 Phi2 Phi2b VDD VSS gf180_clk_inv_2 L=0.28u WN=0.84u WP=1.68u
.ends


* expanding   symbol:  gf180_diff2se_gain.sym # of pins=7
** sym_path: /foss/designs/gf180_diff2se_gain.sym
** sch_path: /foss/designs/gf180_diff2se_gain.sch
.subckt gf180_diff2se_gain VINP VINN VREF VOUT VBIAS VDD VSS  R1=1Meg R2=2Meg
*.PININFO VINP:I VINN:I VREF:I VBIAS:I VDD:B VSS:B VOUT:O
X1OTA VP VN VOUT VBIAS VDD VSS gf180_diff2se_ota WTAIL=0.9u LTAIL=7.25u WIN=1.2u LIN=2u WMIR=0.6u LMIR=1.2u CCOMP=1p
XR1P VINP VP VSS ppolyf_u_1k r_width=1e-6 r_length=100e-6
XR2P VREF VP VSS ppolyf_u_1k r_width=1e-6 r_length=200e-6
XR1N VINN VN VSS ppolyf_u_1k r_width=1e-6 r_length=100e-6
XR2N VOUT VN VSS ppolyf_u_1k r_width=1e-6 r_length=200e-6
.ends


* expanding   symbol:  gf180_ecg_differentiator.sym # of pins=6
** sym_path: /foss/designs/gf180_ecg_differentiator.sym
** sch_path: /foss/designs/gf180_ecg_differentiator.sch
.subckt gf180_ecg_differentiator VIN VREF VBIAS_DIFF VDD VSS VOUT
*.PININFO VIN:I VREF:I VBIAS_DIFF:I VDD:B VSS:B VOUT:O
X1GM3 VDD VSS VOUT VREF VBIAS_DIFF VOUT gf180_9T_differentiator
XC1 VOUT VIN cap_mim_2f0fF c_width=50e-6 c_length=100e-6
.ends


* expanding   symbol:  gf180_ecg_squarer_transistor.sym # of pins=7
** sym_path: /foss/designs/gf180_ecg_squarer_transistor.sym
** sch_path: /foss/designs/gf180_ecg_squarer_transistor.sch
.subckt gf180_ecg_squarer_transistor INEG IPOS VSQB1 VSQB2 VDD VSS IOUT
*.PININFO VDD:B VSS:B INEG:I IPOS:I VSQB1:I VSQB2:I IOUT:O
MN2 INEG INEG net1 VSS nfet_03v3 L=2u W=0.4u nf=1
MN1 net1 net1 VSS VSS nfet_03v3 L=2u W=0.4u nf=1
MN3 VDD INEG net2 VSS nfet_03v3 L=2u W=0.4u nf=1
MN4 net2 VSQB1 VSS VSS nfet_03v3 L=2u W=0.4u nf=1
MN5 net3 net2 VSS VSS nfet_03v3 L=2u W=0.4u nf=1
MP1 net4 net4 VDD VDD pfet_03v3 L=2u W=0.8u nf=1
MP2 IPOS IPOS net4 VDD pfet_03v3 L=2u W=0.8u nf=1
MP4 net5 VSQB2 VDD VDD pfet_03v3 L=2u W=0.8u nf=1
MP3 VSS IPOS net5 VDD pfet_03v3 L=2u W=0.8u nf=1
MP5 net7 net5 VDD VDD pfet_03v3 L=2u W=0.8u nf=1
MP6 net3 net3 VDD VDD pfet_03v3 L=2u W=0.8u nf=1
MP7 net6 net3 VDD VDD pfet_03v3 L=2u W=0.8u nf=1
MN6 net6 net6 VSS VSS nfet_03v3 L=2u W=0.4u nf=1
MN7 IOUT net6 VSS VSS nfet_03v3 L=2u W=0.4u nf=1
MN8 net7 net7 net8 VSS nfet_03v3 L=2u W=0.4u nf=1
MN9 IOUT net7 net9 VSS nfet_03v3 L=2u W=0.4u nf=1
MN10 net8 net8 VSS VSS nfet_03v3 L=2u W=0.4u nf=1
MN11 net9 net8 VSS VSS nfet_03v3 L=2u W=0.4u nf=1
.ends


* expanding   symbol:  gf180_ecg_integrator.sym # of pins=6
** sym_path: /foss/designs/gf180_ecg_integrator.sym
** sch_path: /foss/designs/gf180_ecg_integrator.sch
.subckt gf180_ecg_integrator VINT VREF VBIAS_INT VBASE VDD VSS
*.PININFO VINT:B VREF:I VBIAS_INT:I VBASE:I VDD:B VSS:B
X1GM4 VDD VSS VINT VREF VBIAS_INT VINT gf180_9T_integrator
MSUB VINT VBASE VSS VSS nfet_03v3 L=2u W=0.4u nf=1
XC1 VINT VSS cap_mim_2f0fF c_width=29.2e-6 c_length=10e-6
.ends


* expanding   symbol:  gf180_ecg_threshold.sym # of pins=6
** sym_path: /foss/designs/gf180_ecg_threshold.sym
** sch_path: /foss/designs/gf180_ecg_threshold.sch
.subckt gf180_ecg_threshold VINT VTH VBIAS_CMP VDD VSS VDET
*.PININFO VINT:I VTH:I VBIAS_CMP:I VDD:B VSS:B VDET:O
XCMP VDD VSS VINT VTH VBIAS_CMP net1 gf180_9T_threshold
MPINV VDET net1 VDD VDD pfet_03v3 L=0.8u W=0.8u nf=1
MNINV VDET net1 VSS VSS nfet_03v3 L=0.8u W=0.4u nf=1
.ends


* expanding   symbol:  gf180_banba_bgr.sym # of pins=4
** sym_path: /foss/designs/gf180_banba_bgr.sym
** sch_path: /foss/designs/gf180_banba_bgr.sch
.subckt gf180_banba_bgr START VREF VDD VSS
*.PININFO VDD:B VSS:B VREF:O START:I
MP1 V1 VG VDD VDD pfet_03v3 L=2u W=8u nf=2
MP2 V2 VG VDD VDD pfet_03v3 L=2u W=8u nf=2
MP3 VREF VG VDD VDD pfet_03v3 L=2u W=8u nf=2
MP4 NBIAS VG VDD VDD pfet_03v3 L=2u W=8u nf=2
XQ1 VSS VSS V1 pnp_05p00x00p42
XQ2 VSS VSS VE2 pnp_05p00x00p42 m=16
MPA NLOAD NLOAD VDD VDD pfet_03v3 L=2u W=20u nf=2
MPB VG NLOAD VDD VDD pfet_03v3 L=2u W=20u nf=2
MN1 NLOAD V2 NTAIL VSS nfet_03v3 L=2u W=10u nf=2
MN2 VG V1 NTAIL VSS nfet_03v3 L=2u W=10u nf=2
MNBIAS NBIAS NBIAS VSS VSS nfet_03v3 L=2u W=5u nf=1
MNTAIL NTAIL NTAIL VSS VSS nfet_03v3 L=2u W=1u nf=1
MNSTART VG START VSS VSS nfet_03v3 L=0.8u W=2u nf=1
XCLOOP VG VSS cap_mim_2f0fF c_width=50e-6 c_length=100e-6
XCREF VREF VSS cap_mim_2f0fF c_width=50e-6 c_length=100e-6
XRSH1 VSS V1 VSS ppolyf_u_1k r_width=1e-6 r_length=800u
XRSH2 VSS V2 VSS ppolyf_u_1k r_width=1e-6 r_length=800u
XROUT VSS VREF VSS ppolyf_u_1k r_width=1e-6 r_length=800u
XRPTAT VE2 V2 VSS ppolyf_u_1k r_width=1e-6 r_length=114u
.ends


* expanding   symbol:  CCIA.sym # of pins=9
** sym_path: /foss/designs/CCIA.sym
** sch_path: /foss/designs/CCIA.sch
.subckt CCIA vdd vss vin_p vin_n vout_p vout_n vocm_set i_bias v_bias_cmfb
*.PININFO vdd:B vss:B vin_p:B vin_n:B vout_p:B vout_n:B vocm_set:B i_bias:B v_bias_cmfb:B
xOTA vdd vss ota_in_p ota_in_n vout_p vout_n vcmfb i_bias OTA
xCMFB vdd vss vout_p vout_n vocm_set v_bias_cmfb vcmfb CMFB
MPSEUDO_N_L pr_n_mid pr_n_mid ota_in_n ota_in_n pfet_03v3 L=2u W=0.42u nf=1
MPSEUDO_N_R pr_n_mid pr_n_mid vout_n vout_n pfet_03v3 L=2u W=0.42u nf=1
MPSEUDO_P_L pr_p_mid pr_p_mid ota_in_p ota_in_p pfet_03v3 L=2u W=0.42u nf=1
MPSEUDO_P_R pr_p_mid pr_p_mid vout_p vout_p pfet_03v3 L=2u W=0.42u nf=1
XCFB_P vout_n ota_in_p cap_mim_2f0fF c_width=10e-6 c_length=5e-6
XCFB_N vout_p ota_in_n cap_mim_2f0fF c_width=10e-6 c_length=5e-6
XCIN_P vin_p ota_in_p cap_mim_2f0fF c_width=25e-6 c_length=100e-6
XCIN_N ota_in_n vin_n cap_mim_2f0fF c_width=25e-6 c_length=100e-6
.ends


* expanding   symbol:  Chopper.sym # of pins=10
** sym_path: /foss/designs/Chopper.sym
** sch_path: /foss/designs/Chopper.sch
.subckt Chopper VDD GND Vx- Vx+ In+ In- Ph1 Ph2 Ph1b Ph2b
*.PININFO Vx+:O In+:I VDD:B Ph1:I Ph2:I GND:B Vx-:O In-:I Ph1b:I Ph2b:I
xTG_P1 Ph1 GND In+ Vx+ VDD Ph1b TG
xTG_N1 Ph2 GND In+ Vx- VDD Ph2b TG
xTG_P2 Ph1 GND In- Vx- VDD Ph1b TG
xTG_N2 Ph2 GND In- Vx+ VDD Ph2b TG
.ends


* expanding   symbol:  gf180_9T_bpf_1.sym # of pins=6
** sym_path: /foss/designs/gf180_9T_bpf_1.sym
** sch_path: /foss/designs/gf180_9T_bpf_1.sch
.subckt gf180_9T_bpf_1 VDD VSS VINP VINN VBIAS IOUT
*.PININFO VDD:B VSS:B VINP:I VINN:I VBIAS:I IOUT:O
M1 net2 VINP net1 VDD pfet_03v3 L=2u W=1.2u nf=1
M2 net3 VINN net1 VDD pfet_03v3 L=2u W=1.2u nf=1
MB net1 VBIAS VDD VDD pfet_03v3 L=6.5u W=0.9u nf=1
M3 net2 net2 VSS VSS nfet_03v3 L=1.2u W=0.6u nf=1
M4 net3 net3 VSS VSS nfet_03v3 L=1.2u W=0.6u nf=1
M7 net4 net4 VDD VDD pfet_03v3 L=1.2u W=0.8u nf=1
M5 net4 net2 VSS VSS nfet_03v3 L=1.2u W=0.8u nf=1
M8 IOUT net4 VDD VDD pfet_03v3 L=1.2u W=0.8u nf=1
M6 IOUT net3 VSS VSS nfet_03v3 L=1.2u W=0.8u nf=1
.ends


* expanding   symbol:  gf180_9T_bpf_2.sym # of pins=6
** sym_path: /foss/designs/gf180_9T_bpf_2.sym
** sch_path: /foss/designs/gf180_9T_bpf_2.sch
.subckt gf180_9T_bpf_2 VDD VSS VINP VINN VBIAS IOUT
*.PININFO VDD:B VSS:B VINP:I VINN:I VBIAS:I IOUT:O
M1 net2 VINP net1 VDD pfet_03v3 L=2u W=1.2u nf=1
M2 net3 VINN net1 VDD pfet_03v3 L=2u W=1.2u nf=1
MB net1 VBIAS VDD VDD pfet_03v3 L=9u W=0.22u nf=1
M3 net2 net2 VSS VSS nfet_03v3 L=1.2u W=0.6u nf=1
M4 net3 net3 VSS VSS nfet_03v3 L=1.2u W=0.6u nf=1
M7 net4 net4 VDD VDD pfet_03v3 L=1.2u W=0.8u nf=1
M5 net4 net2 VSS VSS nfet_03v3 L=1.2u W=0.8u nf=1
M8 IOUT net4 VDD VDD pfet_03v3 L=1.2u W=0.8u nf=1
M6 IOUT net3 VSS VSS nfet_03v3 L=1.2u W=0.8u nf=1
.ends


* expanding   symbol:  gf180_clk_inv_1.sym # of pins=4
** sym_path: /foss/designs/gf180_clk_inv_1.sym
** sch_path: /foss/designs/gf180_clk_inv_1.sch
.subckt gf180_clk_inv_1 IN OUT VDD VSS  L=0.28u WN=0.42u WP=0.84u
*.PININFO IN:I VDD:B VSS:B OUT:O
MP OUT IN VDD VDD pfet_03v3 L=0.28u W=0.84u nf=1
MN OUT IN VSS VSS nfet_03v3 L=0.28u W=0.42u nf=1
.ends


* expanding   symbol:  gf180_clk_nand2.sym # of pins=5
** sym_path: /foss/designs/gf180_clk_nand2.sym
** sch_path: /foss/designs/gf180_clk_nand2.sch
.subckt gf180_clk_nand2 A B Y VDD VSS  L=0.28u WN=0.84u WP=0.84u
*.PININFO A:I B:I Y:O VDD:B VSS:B
MPA Y A VDD VDD pfet_03v3 L=0.28u W=0.84u nf=1
MPB Y B VDD VDD pfet_03v3 L=0.28u W=0.84u nf=1
MNA Y A NSTACK VSS nfet_03v3 L=0.28u W=0.84u nf=1
MNB NSTACK B VSS VSS nfet_03v3 L=0.28u W=0.84u nf=1
.ends


* expanding   symbol:  gf180_clk_inv_2.sym # of pins=4
** sym_path: /foss/designs/gf180_clk_inv_2.sym
** sch_path: /foss/designs/gf180_clk_inv_2.sch
.subckt gf180_clk_inv_2 IN OUT VDD VSS  L=0.28u WN=0.42u WP=0.84u
*.PININFO IN:I VDD:B VSS:B OUT:O
MP OUT IN VDD VDD pfet_03v3 L=0.28u W=1.68u nf=1
MN OUT IN VSS VSS nfet_03v3 L=0.28u W=0.84u nf=1
.ends


* expanding   symbol:  gf180_diff2se_ota.sym # of pins=6
** sym_path: /foss/designs/gf180_diff2se_ota.sym
** sch_path: /foss/designs/gf180_diff2se_ota.sch
.subckt gf180_diff2se_ota VINP VINN VOUT VBIAS VDD VSS  WTAIL=0.9u LTAIL=7.25u WIN=1.2u LIN=2u WMIR=0.6u LMIR=1.2u CCOMP=1p
*.PININFO VINP:I VINN:I VBIAS:I VDD:B VSS:B VOUT:O
MTAIL TAIL VBIAS VDD VDD pfet_03v3 L=LTAIL W=WTAIL nf=1
MP1 NREF VINP TAIL VDD pfet_03v3 L=LIN W=WIN nf=1
MP2 VOUT VINN TAIL VDD pfet_03v3 L=LIN W=WIN nf=1
MN1 NREF NREF VSS VSS nfet_03v3 L=LMIR W=WMIR nf=1
MN2 VOUT NREF VSS VSS nfet_03v3 L=LMIR W=WMIR nf=1
.ends


* expanding   symbol:  gf180_9T_differentiator.sym # of pins=6
** sym_path: /foss/designs/gf180_9T_differentiator.sym
** sch_path: /foss/designs/gf180_9T_differentiator.sch
.subckt gf180_9T_differentiator VDD VSS VINP VINN VBIAS IOUT
*.PININFO VDD:B VSS:B VINP:I VINN:I VBIAS:I IOUT:O
M1 net2 VINP net1 VDD pfet_03v3 L=2u W=1.2u nf=1
M2 net3 VINN net1 VDD pfet_03v3 L=2u W=1.2u nf=1
MB net1 VBIAS VDD VDD pfet_03v3 L=7.1u W=0.25u nf=1
M3 net2 net2 VSS VSS nfet_03v3 L=1.2u W=0.6u nf=1
M4 net3 net3 VSS VSS nfet_03v3 L=1.2u W=0.6u nf=1
M7 net4 net4 VDD VDD pfet_03v3 L=1.2u W=0.8u nf=1
M5 net4 net2 VSS VSS nfet_03v3 L=1.2u W=0.8u nf=1
M8 IOUT net4 VDD VDD pfet_03v3 L=1.2u W=0.8u nf=1
M6 IOUT net3 VSS VSS nfet_03v3 L=1.2u W=0.8u nf=1
.ends


* expanding   symbol:  gf180_9T_integrator.sym # of pins=6
** sym_path: /foss/designs/gf180_9T_integrator.sym
** sch_path: /foss/designs/gf180_9T_integrator.sch
.subckt gf180_9T_integrator VDD VSS VINP VINN VBIAS IOUT
*.PININFO VDD:B VSS:B VINP:I VINN:I VBIAS:I IOUT:O
M1 net2 VINP net1 VDD pfet_03v3 L=2u W=1.2u nf=1
M2 net3 VINN net1 VDD pfet_03v3 L=2u W=1.2u nf=1
MB net1 VBIAS VDD VDD pfet_03v3 L=27.8u W=0.44u nf=1
M3 net2 net2 VSS VSS nfet_03v3 L=1.2u W=0.6u nf=1
M4 net3 net3 VSS VSS nfet_03v3 L=1.2u W=0.6u nf=1
M7 net4 net4 VDD VDD pfet_03v3 L=1.2u W=0.8u nf=1
M5 net4 net2 VSS VSS nfet_03v3 L=1.2u W=0.8u nf=1
M8 IOUT net4 VDD VDD pfet_03v3 L=1.2u W=0.8u nf=1
M6 IOUT net3 VSS VSS nfet_03v3 L=1.2u W=0.8u nf=1
.ends


* expanding   symbol:  gf180_9T_threshold.sym # of pins=6
** sym_path: /foss/designs/gf180_9T_threshold.sym
** sch_path: /foss/designs/gf180_9T_threshold.sch
.subckt gf180_9T_threshold VDD VSS VINP VINN VBIAS IOUT
*.PININFO VDD:B VSS:B VINP:I VINN:I VBIAS:I IOUT:O
M1 net2 VINP net1 VDD pfet_03v3 L=2u W=1.2u nf=1
M2 net3 VINN net1 VDD pfet_03v3 L=2u W=1.2u nf=1
MB net1 VBIAS VDD VDD pfet_03v3 L=7.25u W=0.9u nf=1
M3 net2 net2 VSS VSS nfet_03v3 L=1.2u W=0.6u nf=1
M4 net3 net3 VSS VSS nfet_03v3 L=1.2u W=0.6u nf=1
M7 net4 net4 VDD VDD pfet_03v3 L=1.2u W=0.8u nf=1
M5 net4 net2 VSS VSS nfet_03v3 L=1.2u W=0.8u nf=1
M8 IOUT net4 VDD VDD pfet_03v3 L=1.2u W=0.8u nf=1
M6 IOUT net3 VSS VSS nfet_03v3 L=1.2u W=0.8u nf=1
.ends


* expanding   symbol:  OTA.sym # of pins=8
** sym_path: /foss/designs/OTA.sym
** sch_path: /foss/designs/OTA.sch
.subckt OTA vdd vss vin_p vin_n vout_p vout_n vcmfb i_bias
*.PININFO vdd:B vss:B vin_p:B vin_n:B vout_p:B vout_n:B vcmfb:B i_bias:B
x2 vin_p vin_n net2 net1 vdd vss i_bias vcmfb input_stage
x1 vdd vss net2 net1 vout_p vout_n i_bias output_stage
.ends


* expanding   symbol:  CMFB.sym # of pins=7
** sym_path: /foss/designs/CMFB.sym
** sch_path: /foss/designs/CMFB.sch
.subckt CMFB vdd vss OTAout_p OTAout_n vocm_set i_bias vcmfb
*.PININFO vdd:B vss:B OTAout_p:B OTAout_n:B vocm_set:B i_bias:B vcmfb:B
MTAIL cmfb_tail i_bias vdd vdd pfet_03v3 L=2u W=1u nf=1
MP_REF cmfb_ref vocm_set cmfb_tail vdd pfet_03v3 L=2u W=1u nf=1
MP_SENSE vcmfb vocm_sense cmfb_tail vdd pfet_03v3 L=2u W=1u nf=1
MN_DIODE cmfb_ref cmfb_ref vss vss nfet_03v3 L=4u W=1u nf=1
MN_OUT vcmfb cmfb_ref vss vss nfet_03v3 L=4u W=1u nf=1
XC1 net1 vss cap_mim_2f0fF c_width=25e-6 c_length=20e-6
XRVP vocm_sense OTAout_p vss ppolyf_u_1k r_width=1e-6 r_length=200e-6
XRVN vocm_sense OTAout_n vss ppolyf_u_1k r_width=1e-6 r_length=200e-6
XR1 net1 vcmfb vss ppolyf_u_1k r_width=1e-6 r_length=50e-6
.ends


* expanding   symbol:  TG.sym # of pins=6
** sym_path: /foss/designs/TG.sym
** sch_path: /foss/designs/TG.sch
.subckt TG En GND In Out VDD EnB
*.PININFO En:I EnB:I GND:B In:B Out:B VDD:B
MN In En Out GND nfet_03v3 L=0.28u W=0.42u nf=1
MP Out EnB In VDD pfet_03v3 L=0.28u W=0.84u nf=1
MN1 Out EnB Out GND nfet_03v3 L=0.28u W=0.42u nf=1
MP1 Out En Out VDD pfet_03v3 L=0.28u W=0.84u nf=1
.ends


* expanding   symbol:  OTA/input_stage/input_stage.sym # of pins=8
** sym_path: /foss/designs/OTA/input_stage/input_stage.sym
** sch_path: /foss/designs/OTA/input_stage/input_stage.sch
.subckt input_stage vin_p vin_n vout_p vout_n vdd vss tail_bias load_bias
*.PININFO vin_p:B vin_n:B vout_p:B vout_n:B vdd:B vss:B tail_bias:B load_bias:B
M1 vout_p load_bias vss vss nfet_03v3 L=0.36u W=1.5u nf=1
M2 vout_n load_bias vss vss nfet_03v3 L=0.36u W=1.5u nf=1
M3 vout_p vin_n vtail vdd pfet_03v3 L=0.36u W=23u nf=8
M5 vtail tail_bias vdd vdd pfet_03v3 L=0.54u W=9u nf=3
M4 vout_n vin_p vtail vdd pfet_03v3 L=0.36u W=23u nf=8
.ends


* expanding   symbol:  OTA/output_stage/output_stage.sym # of pins=7
** sym_path: /foss/designs/OTA/output_stage/output_stage.sym
** sch_path: /foss/designs/OTA/output_stage/output_stage.sch
.subckt output_stage vdd vss vin_p vin_n vout_p vout_n load_bias
*.PININFO vdd:B vss:B vin_p:B vin_n:B vout_p:B vout_n:B load_bias:B
M1 vout_n vin_p vss vss nfet_03v3 L=0.54u W=32.6u nf=10
M2 vout_n load_bias vdd vdd pfet_03v3 L=0.54u W=39u nf=13
XC2 vout_n vin_p cap_mim_2f0fF c_width=36e-6 c_length=28e-6
XC1 vout_p vin_n cap_mim_2f0fF c_width=36e-6 c_length=28e-6
M4 vout_p load_bias vdd vdd pfet_03v3 L=0.54u W=39u nf=13
M3 vout_p vin_n vss vss nfet_03v3 L=0.54u W=32.6u nf=10
.ends

